US04670440
Preparation of N,N,N-trimethyl-2-hydroxyethyl-ammonium-[1-ethyl-6-fluoro-4-oxo-7-(1-piperazinyl)-1,4-dihydro-quinoline-3-carboxylate].
In a round-bottomed 1000 ml. flask 20 g. of 1-ethyl-4-oxo-6-fluoro-7-(piperazinyl)-1,4-dihydro-quinoline-3-carboxylic acid are suspended in a mixture of 150 ml. methanol and 50 ml. distilled water. From a dropping funnel 18 ml. of N,N,N-trimethyl-2-hydroxyethyl-ammonium hydroxide (choline base) dissolved in 50% methanol are added dropvise to the suspension under constant stirring at room temperature. A clear, light yellow solution is obtained. The aqueous-methanolic solution is evaporated above 40% water bath in vacuo. The yellow, adhesive solution thus obtained is suspended in 200 ml of acetone and heated to boiling, then isopropanol (36 ml.) is added dropwise under boiling until total dissolution. The solution is cooled slowly. The precipitated material is filtered under vacuo on a glass filter G-4 and washed. Wet-weight after filtration: 27.4 g.

reactant | 1-ethyl-4-oxo-6-fluoro-7-(piperazinyl)-1,4-dihydro-quinoline-3-carboxylic acid | C(C)N1C=C(C(C2=CC(=C(C=C12)N1CCNCC1)F)=O)C(=O)O | C16H18FN3O3
reactant | water | O | H2O
reactant | N,N,N-trimethyl-2-hydroxyethyl-ammonium hydroxide | [OH-].C[N+](C)(C)CCO
reactant | isopropanol | 36 ml | C(C)(C)O | C3H8O
solvent | methanol | CO | CH4O
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | N,N,N-trimethyl-2-hydroxyethyl-ammonium-[1-ethyl-6-fluoro-4-oxo-7-(1-piperazinyl)-1,4-dihydro-quinoline-3-carboxylate] | C(C)N1C=C(C(C2=CC(=C(C=C12)N1CCNCC1)F)=O)C(=O)[O-].C[N+](C)(C)CCO | InChI=1S/C16H18FN3O3.C5H14NO/c1-2-19-9-11(16(22)23)15(21)10-7-12(17)14(8-13(10)19)20-5-3-18-4-6-20;1-6(2,3)4-5-7/h7-9,18H,2-6H2,1H3,(H,22,23);7H,4-5H2,1-3H3/q;+1/p-1
